US05536718
N-[4-(5H-Pyrrolo[2, 1-c][1,4]benzodiazepin-10 (11H) -ylcarbonyl)phenyl]-2-(dimethylamino)-pyridine-3-carboxamide
Using the conditions of Example 334 and 1 g of N-[4-(5H-pyrrolo[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-phenyl]-2-chloropyridine-3-carboxamide and 10 ml of 40% N,N-dimethylamine gives 700 mg of the desired product:M+ =451.

reactant | N-[4-(5H-pyrrolo[2, 1-c][1,4]benzodiazepin-10(11H) -ylcarbonyl)-phenyl]-2-chloropyridine-3-carboxamide | 1 g | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)Cl | C25H19ClN4O2
reactant | N,N-dimethylamine | 10 ml | CNC | C2H7N
product | N-[4-(5H-Pyrrolo[2, 1-c][1,4]benzodiazepin-10 (11H) -ylcarbonyl)phenyl]-2-(dimethylamino)-pyridine-3-carboxamide | 700 mg | C=1C=CN2C1CN(C1=C(C2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(=O)C=1C(=NC=CC1)N(C)C | C27H25N5O2
